US07935702B2
1. 6-(5-Chloro-1,8-naphthyridin-2-yl)-5-(trifluoromethyl)pyridin-3-amine
Dissolve 2-amino-4-chloronicotinaldehyde (78 mg, 0.5 mmol) and 2-acetyl-5-amino-3-trifluoromethylpyridine (102 mg, 0.5 mmol) in anhydrous THF (5.0 mL) and cool it to −40° C. under N2 atmosphere. Add in portion t-BuOK (112 mg, 1.0 mmol) to the reaction mixture and stir the mixture at −110° C. for 2 hours. Concentrate the reaction mixture under vacuum, dilute the residue with water (20 mL), extract with CH2Cl2 (3×30 mL) and dry (MgSO4). Filter, concentrate under vacuum and purify the crude by column chromatography to afford the title compound product as a yellow solid.

reactant | 2-amino-4-chloronicotinaldehyde | 0.5 mmol, 78 mg | NC1=C(C=O)C(=CC=N1)Cl | C6H5ClN2O
reactant | 2-acetyl-5-amino-3-trifluoromethylpyridine | 0.5 mmol, 102 mg | C(C)(=O)C1=NC=C(C=C1C(F)(F)F)N | C8H7F3N2O
reactant | t-BuOK | 1.0 mmol, 112 mg | CC(C)(C)[O-].[K+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 6-(5-Chloro-1,8-naphthyridin-2-yl)-5-(trifluoromethyl)pyridin-3-amine | ClC1=C2C=CC(=NC2=NC=C1)C1=C(C=C(C=N1)N)C(F)(F)F | C14H8ClF3N4
